US05380896
Preparation of dibutyltin β-mercaptopropionate
A mixture of 2.475 kg (23.3 tool) of 3-mercaptopropionic acid and 5.97 kg (24 mol) of dibutyltin oxide is continuously fed into a screw drier whose heat exchange areas consist of two heating and one cooling zone. Behind each heating zone, a suction device is present for removing the water of reaction formed.

reactant | 3-mercaptopropionic acid | 2.475 kg | SCCC(=O)O | C3H6O2S
reactant | dibutyltin oxide | 24 mol, 5.97 kg | C(CCC)[Sn](CCCC)=O
product | dibutyltin β-mercaptopropionate | SCCC(=O)[O-].C(CCC)[Sn+2]CCCC.SCCC(=O)[O-] | InChI=1S/2C4H9.2C3H6O2S.Sn/c2*1-3-4-2;2*4-3(5)1-2-6;/h2*1,3-4H2,2H3;2*6H,1-2H2,(H,4,5);/q;;;;+2/p-2
